US08557805B2
4-Nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenol
To a solution of tetrahydro-2H-pyran-4-ol (54.7 g) in N,N-dimethylformamide (500 mL) was added under ice-cooling sodium hydride (oily, 60%) (14 g), and the mixture was stirred for 30 min. To the reaction solution was added 2-fluoro-4-(methoxymethoxy)-1-nitrobenzene (98 g) and the mixture was stirred at 120° C. for 4 hr. The reaction mixture was cooled to room temperature, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was dissolved in tetrahydrofuran (300 mL), 1N hydrochloric acid (500 mL) was added and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to column chromatography (ethyl acetate:hexane=0:100 to 50:50, volume ratio) to give the title compound (27 g, yield 23%) as pale-yellow crystals.

reactant | tetrahydro-2H-pyran-4-ol | 54.7 g | O1CCC(CC1)O | C5H10O2
reactant | sodium hydride | 14 g | [H-].[Na+]
reactant | 2-fluoro-4-(methoxymethoxy)-1-nitrobenzene | 98 g | FC1=C(C=CC(=C1)OCOC)[N+](=O)[O-] | C8H8FNO4
reactant | hydrochloric acid | 1N, 500 mL | Cl | ClH
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-Nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenol | 27 g, yield 23% | [N+](=O)([O-])C1=C(C=C(C=C1)O)OC1CCOCC1 | C11H13NO5
